US06384065B1
In 2.5 ml of ethanol was dissolved 0.51 g of ethyl 4-[2-(2-ethoxy-2-oxoethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-oxobutanoate. After adding 2.5 ml of 1 mol/L aqueous solution of sodium hydroxide at 0-5° C., the resulting mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was poured into a mixture of ice water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Thus, 0.34 g of 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoic acid was obtained as a yellow oily product.

reactant | ethyl 4-[2-(2-ethoxy-2-oxoethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-oxobutanoate | 0.51 g | C(C)OC(CC1SC2(N(C1=O)CCC1=CC=CC=C1)CCN(CC2)CCC(C(=O)OCC)=O)=O | C25H34N2O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoic acid | 0.34 g | C(=O)(O)CC1SC2(N(C1=O)CCC1=CC=CC=C1)CCN(CC2)C(CCC(=O)O)=O | C21H26N2O6S
